US07153878B2
5-(2-Methoxy-1-methyl-vinyl)-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole
To a solution of (methoxymethyl)triphenyl phosphonium chloride (15.5 g, 45.2 mmole) in toluene (330 mL) is added potassium t-butoxide (5.07 g, 45.2 mmole) in one portion and stirred for 30 minutes, then a solution of 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone (8.6 g, 30.1 mmole) in toluene (20 mL) is added. The reaction is stirred for 4 hours, quenched by NH4Cl aqueous solution, extracted with ethyl acetate and then concentrated on rota vapor. The residue is purified on a silica gel column, eluting with 0–10% ethyl acetate in hexane and concentrated to provide the title compound (7.0 g).

reactant | (methoxymethyl)triphenyl phosphonium chloride | 45.2 mmole, 15.5 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 45.2 mmole, 5.07 g | CC(C)([O-])C.[K+]
reactant | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone | 30.1 mmole, 8.6 g | CC=1N=C(SC1C(C)=O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NOS
solvent | toluene | 330 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Methoxy-1-methyl-vinyl)-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 7.0 g | COC=C(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C15H14F3NOS
